US05885999
a) t-Butyl (1-t-Butoxycarbonyl-1,2,3,6-tetrahydropyridin-4-yl)phenylcarbamate
Tetrakis(triphenylphosphine)palladium (0) (100 mg) was added to a degassed mixture of 1-t-butoxycarbonyl-4-trifluoromethanesulfonyloxy-1,2,3,6-tetrahydropyridine (5.0 g), 2-(t-butoxycarbonylamino)phenylboronic acid (Tetrahedron Lett. 1993, 28, 5093) (4.99 g), lithium chloride (1.94 g) and aqueous sodium carbonate (2N, 21 mL) in 1,2-dimethoxyethane (100 mL). The resulting solution was heated under reflux for 3 h., cooled to room temperature and the solvent was evaporated under reduced pressure. The residue was partitioned between ethyl acetate and aqueous sodium carbonate (2M) and the organic layer was separated, dried (MgSO4) and the solvent was evaporated under reduced pressure. The residue was purified by MPLC on silica gel, eluting with EtOAc/Hexane (5:95) to give the title compound as a waxy solid (2.7 g), δH (CDCl3) 1.43 (18H, s), 2.29 (2H, m), 3.57 (2H, t, J 8.0 Hz), 4.00 (2H, m), 5.64 (1H, br s), 6.46 (1H, br s), 6.92-6.96 (2H, m), 7.15-7.19 (1H, m), 7.87 (1H, m).

reactant | 1-t-butoxycarbonyl-4-trifluoromethanesulfonyloxy-1,2,3,6-tetrahydropyridine | 5.0 g | C(C)(C)(C)OC(=O)N1CCC(=CC1)OS(=O)(=O)C(F)(F)F | C11H16F3NO5S
reactant | 2-(t-butoxycarbonylamino)phenylboronic acid | 4.99 g | C(C)(C)(C)OC(=O)NC1=C(C=CC=C1)B(O)O | C11H16BNO4
reactant | lithium chloride | 1.94 g | [Cl-].[Li+]
reactant | sodium carbonate | 2N, 21 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | 1,2-dimethoxyethane | 100 mL | COCCOC | C4H10O2
catalyst | Tetrakis(triphenylphosphine)palladium | 100 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | t-Butyl (1-t-Butoxycarbonyl-1,2,3,6-tetrahydropyridin-4-yl)phenylcarbamate | C(C)(C)(C)OC(=O)N1CCC(=CC1)N(C(OC(C)(C)C)=O)C1=CC=CC=C1 | C21H30N2O4
